US09388199B2
B. (1R,3S,5R)-2-Aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester hydrochloride
To a solution of (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 3-benzyl ester 2-tert-butyl ester (2.69 g, 8.48 mmol) in dioxane was added HCl (4N in dioxane, 10.6 mL, 42.4 mmol). The reaction mixture was stirred at RT overnight and subsequently lyophilized. MS (LC/MS): 218 [M+H]+.

reactant | (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-2,3-dicarboxylic acid 3-benzyl ester 2-tert-butyl ester | 8.48 mmol, 2.69 g | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)OCC1=CC=CC=C1 | C18H23NO4
reactant | HCl | 42.4 mmol, 4N, 10.6 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (1R,3S,5R)-2-Aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)[C@H]1N[C@@H]2C[C@@H]2C1 | InChI=1S/C13H15NO2.ClH/c15-13(12-7-10-6-11(10)14-12)16-8-9-4-2-1-3-5-9;/h1-5,10-12,14H,6-8H2;1H/t10-,11-,12+;/m1./s1
